US04471119
Ethyl 6-amino-8-methoxycarbonyl-4-oxo-10-propyl-4H-pyrano [3,2-g] quinoline-2-carboxylate
4-Chlorophenoxysulphonylisocyanate (0.2 ml, 290 mg) was added to a suspension of ethyl 6,9-dihydro-4,6-dioxo-8-methoxycarbonyl-10-propyl-4H-pyrano[3,2-g] quinoline-2-carboxylate (385 mg, 1 mmol) in acetonitrile (5 ml), and then refluxed for 0.5 h. The solution was allowed to cool, ethanolic hydrogen chloride solution (2 ml) was added, and after 5 minutes the pale yellow solution was poured into aqueous ammonial solution (0.88 specific gravity, 5 ml) at 5° C., to give a thick orange precipitate. Filtration and washing with ethanol (10 ml) gave the title compound, 320 mg (83%) as an orange powder, mp 268°-270° C. (decomposes).

reactant | 4-Chlorophenoxysulphonylisocyanate | 0.2 ml, 290 mg | ClC1=CC=C(OS(=O)(=O)N=C=O)C=C1 | C7H4ClNO4S
reactant | ethyl 6,9-dihydro-4,6-dioxo-8-methoxycarbonyl-10-propyl-4H-pyrano[3,2-g] quinoline-2-carboxylate | 1 mmol, 385 mg | O=C1C=C(OC2=C1C=C1C(C=C(NC1=C2CCC)C(=O)OC)=O)C(=O)OCC | C20H19NO7
reactant | hydrogen chloride | 2 ml | Cl | ClH
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | Ethyl 6-amino-8-methoxycarbonyl-4-oxo-10-propyl-4H-pyrano [3,2-g] quinoline-2-carboxylate | NC1=CC(=NC2=C(C3=C(C=C12)C(C=C(O3)C(=O)OCC)=O)CCC)C(=O)OC | C20H20N2O6
